US07338958B2
l) Production of (2R,3R)-3-[(5-bromo-2-chloropyrimidin-4-yl)amino]butan-2-ol
32.7 g (159 mmol) of copper(I)bromide dimethyl sulfide complex is introduced under nitrogen atmosphere into 1000 ml of diethyl ether and cooled to −78° C. Over a period of about 25 minutes, 200 ml of a 1.6 molar solution of methyllithium in diethyl ether is added in drops, and then the cooling bath is removed. The batch is stirred for 40 minutes, and the temperature increases to −35° C. It is cooled to −55° C., and 18.9 g (71.5 mmol) of (R)-2-[(5-bromo-2-chloropyrimidin-4-yl)amino]propanal is added over a period of 20 minutes. It is stirred for 6 hours at −55° C., then the cooling bath is filled with dry ice again, covered with aluminum foil, and the batch is stirred overnight. 200 ml of a saturated ammonium chloride solution is added in drops, and the batch is heated to room temperature. It is diluted with 500 ml of diethyl ether, the organic phase is separated, and the aqueous phase is extracted with diethyl ether. The combined organic phases are washed with saturated ammonium chloride solution and saturated NaCl solution, dried (Na2SO4), filtered and concentrated by evaporation. The remaining residue is purified by chromatography (hexane/ethyl acetate: 4:1-1:1). 8.4 g (30.0 mmol, corresponding to 42% of theory) of the product is obtained.

reactant | methyllithium | C[Li]
reactant | (R)-2-[(5-bromo-2-chloropyrimidin-4-yl)amino]propanal | 71.5 mmol, 18.9 g | BrC=1C(=NC(=NC1)Cl)N[C@@H](C=O)C | C7H7BrClN3O
reactant | dry ice | C(=O)=O | CO2
reactant | aluminum | [Al] | Al
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 1000 ml | C(C)OCC | C4H10O
product | (2R,3R)-3-[(5-bromo-2-chloropyrimidin-4-yl)amino]butan-2-ol | BrC=1C(=NC(=NC1)Cl)N[C@@H]([C@@H](C)O)C | C8H11BrClN3O
